US09260439B2
Preparation 1: Preparation of 2-[4,6-dichloro-2-(morpholin-4-yl)pyrimidin-5-yl]ethanol
To a solution of 4-(4,6-dichloropyrimidin-2-yl)morpholine (468 mg, 2.0 mmol) in THF (20 mL) was added n-butyllithium (1.56 mL, 1.6 M) dropwise at −78° C. After stirring for 30 min, 1,3,2-dioxathiolane 2,2-dioxide (336 mg, 2.71 mmol) was added, and after stirring for an additional 40 min, 6 N HCl (6.67 mL) was added. The reaction was stirred at room temperature for 18 h and then at 40° C. for 4 h. The reaction mixture was extracted with ethyl acetate and the organic layer was washed with brine, dried with MgSO4, filtered and concentrated by rotary evaporation. The resulting residue was purified by silica gel chromatography using a gradient of EtOAc/heptane (25-75%) to give the title compound (231 mg, 42%). 1H NMR (400 MHz, CDCl3) δ 3.84 (t, J=7.0 Hz, 2 H), 3.80-3.76 (m, 4 H), 3.76-3.72 (m, 4 H), 3.04 (t, J=7.0 Hz, 2 H). m/z (APCI+) for C10H13Cl2N3O2 277.9 (M+H)+.

reactant | 4-(4,6-dichloropyrimidin-2-yl)morpholine | 2.0 mmol, 468 mg | ClC1=NC(=NC(=C1)Cl)N1CCOCC1 | C8H9Cl2N3O
reactant | n-butyllithium | 1.6 M, 1.56 mL | C(CCC)[Li]
reactant | 1,3,2-dioxathiolane 2,2-dioxide | 2.71 mmol, 336 mg | O1S(OCC1)(=O)=O | C2H4O4S
reactant | HCl | 6 N, 6.67 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[4,6-dichloro-2-(morpholin-4-yl)pyrimidin-5-yl]ethanol | 231 mg, 42% | ClC1=NC(=NC(=C1CCO)Cl)N1CCOCC1 | C10H13Cl2N3O2
